US07893099B2
Step 4: (1S,2R,4S) and (1R,2S,4R)-4-(tert-Butyl-diphenyl-silanyloxy)-2-isopropoxy-cyclopentanecarbonitrile
(1S,2R,4S) and (1R,2S,4R)-4-(tert-Butyl-diphenyl-silanyloxy)-2-isopropoxy-cyclopentanol (510 mg, 1.28 mmol) was dissolved in DCM (12 ml) and pyridine was added (206 μl, 2.56 mmol). The mixture was cooled to −35° C. and a solution of trifluoromethanesulfonic anhydride (253 μl, 1.54 mmol) in DCM (3 ml) was added. After the reaction mixture had been stirred for 5 h at −20° C. it was concentrated and passed trough a short plug of silica gel and then evaporated to dryness. The remaining oil was dissolved in THF (12 ml) and a solution of tertrabutylammonium cyanide in THF (3 ml) was added dropwise at −45° C. The reaction mixture was stirred at room temperature over night and then evaporated. The remaining yellow oil was purified by silica column chromatography (heptane/EtOAc 9:1) to obtain the title compound (311 mg, 60%) as colorless oil. MS (EI): 408.4 (M+H)+.

reactant | (1R,2S,4R)-4-(tert-Butyl-diphenyl-silanyloxy)-2-isopropoxy-cyclopentanol | 1.28 mmol, 510 mg | C(C)(C)(C)[Si](O[C@H]1C[C@@H]([C@@H](C1)O)OC(C)C)(C1=CC=CC=C1)C1=CC=CC=C1 | C24H34O3Si
reactant | pyridine | N1=CC=CC=C1 | C5H5N
reactant | trifluoromethanesulfonic anhydride | 1.54 mmol, 253 μl | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
solvent | DCM | 12 ml | C(Cl)Cl | CH2Cl2
solvent | DCM | 3 ml | C(Cl)Cl | CH2Cl2
product | (1R,2S,4R)-4-(tert-Butyl-diphenyl-silanyloxy)-2-isopropoxy-cyclopentanecarbonitrile | 311 mg, 60% | C(C)(C)(C)[Si](O[C@H]1C[C@@H]([C@H](C1)C#N)OC(C)C)(C1=CC=CC=C1)C1=CC=CC=C1 | C25H33NO2Si
